US07304081B2
(1R)-1′-({1-[4-(3-Methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one
To a solution of (1R)-1′-({1-[4-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one (50 mg, 0.0001 mol) in dimethyl sulfoxide (1 mL, 0.01 mol) were added potassium carbonate (16.3 mg, 0.000118 mol) and methyl iodide (6.67 μL, 0.000107 mol), and the mixture was stirred at room temperature for. 2 hours. The crude product was purified by prep-HPLC. LC/MS: 480.2 (M+H+).

reactant | (1R)-1′-({1-[4-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | 0.0001 mol, 50 mg | O=C1NC2=C(N1C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]3(CC1)OC(C=1C=NC=CC13)=O)C=CC=C2 | C27H22N4O4
reactant | dimethyl sulfoxide | 0.01 mol, 1 mL | CS(=O)C | C2H6OS
reactant | potassium carbonate | 0.000118 mol, 16.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.000107 mol, 6.67 μL | CI | CH3I
product | (1R)-1′-({1-[4-(3-Methyl-2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)phenyl]cyclopropyl}carbonyl)-3H-spiro[furo[3,4-c]pyridine-1,3′-pyrrolidin]-3-one | CN1C(N(C2=C1C=CC=C2)C2=CC=C(C=C2)C2(CC2)C(=O)N2C[C@]1(CC2)OC(C=2C=NC=CC21)=O)=O | C28H24N4O4
